* SPICE_IDEAL: unity controlled-source buffer; not an MCP6004 model
Vin in 0 0
Ebuf out 0 in 0 1
.dc Vin 0 3.3 0.1
.meas dc vout_at_1v FIND V(out) WHEN V(in)=1
.meas dc vout_at_3v FIND V(out) WHEN V(in)=3
.end

