* SPICE_IDEAL: ideal high-gain VCVS with x2 non-inverting feedback network
Vin in 0 0
Eop out 0 in nminus 1e6
Rg nminus 0 10k
Rf out nminus 10k
.dc Vin 0 1.5 0.05
.meas dc vout_at_1v FIND V(out) WHEN V(in)=1
.end

