* SPICE_IDEAL: first-order 16k/100nF passive low-pass
Vin in 0 AC 1
R1 in out 16k
C1 out 0 100n
.ac dec 200 1 100k
.meas ac fc WHEN mag(V(out))=0.707106781 FALL=1
.meas ac gain_at_100hz FIND mag(V(out)) AT=100
.end

